US06936306B1
Synthesis of methoxy(ethoxyethoxy)acetate-alumoxane (MEEA-A)
Pseudoboehmite (20.0 g) and methoxy(ethoxyethoxy)acetic acid (102 mL) were refluxed in water (400 mL) resulting in a clear solution after 72 h. The solution was centrifuged at 6000 rpm for 1 hour and decanted. Removal of the volatiles in vacuo (10−2 Torr) at 90° C. yielded a gel which was then dissolved in ethanol (100 mL) while stirring (10 min.) then triturated with diethyl ether (200 mL). The white solid powder thus obtained was redissolved in water (100 mL) and dried at 50° C. for 24 h resulting in a clear glassy material. The MEEA-alumoxane is soluble in water, methanol, chloroform, and methylene chloride. The alumoxane was heated from 25° C. to 225° C. at the rate of 1° C./min., soaked for 30 mins. at 225° C., followed by a temperature ramp up to 300° C. at the rate of 2° C./min., and soaked for 80 mins., with a final ramp to the maximum temperature of 1100° C. (over 360 minutes) which was then maintained for 400 minutes (FIG.

reactant | methoxy(ethoxyethoxy)acetic acid | 102 mL | COC(C(=O)O)OCCOCC | C7H14O5
reactant | methanol | CO | CH4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | alumoxane | [AlH]1OCCCC1
solvent | water | 400 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methoxy(ethoxyethoxy)acetate alumoxane | COC(C(=O)[O-])OCCOCC.[AlH]1OCCCC1 | InChI=1S/C7H14O5.C4H8O.Al.H/c1-3-11-4-5-12-7(10-2)6(8)9;1-2-3-4-5;;/h7H,3-5H2,1-2H3,(H,8,9);1-4H2;;/q;-1;+1;/p-1
